US07528129B2
17e) (S)-2-(4-benzyloxy-3,5-dimethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoic acid
A solution of 200 mg (8.35 mmol) LiOH in 40 mL water was added to a solution of 2.43 g (4.16 mmol) methyl(S)-2-(4-benzyloxy-3,5-dimethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoate in 80 mL THF and the reaction mixture was stirred for 1 h at RT. The mixture was evaporated down i.vac., the residue was taken up in 100 mL water and acidified with 2 M HCl with stirring. The precipitate formed was separated off and dried at 40° C.

reactant | LiOH | 8.35 mmol, 200 mg | [Li+].[OH-]
reactant | methyl(S)-2-(4-benzyloxy-3,5-dimethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoate | 4.16 mmol, 2.43 g | C(C1=CC=CC=C1)OC1=C(C=C(C[C@H](C(=O)OC)CC(N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)=O)C=C1C)C | C35H41N3O5
solvent | water | 40 mL | O | H2O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | (S)-2-(4-benzyloxy-3,5-dimethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoic acid | C(C1=CC=CC=C1)OC1=C(C=C(C[C@H](C(=O)O)CC(N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)=O)C=C1C)C | C34H39N3O5
